* Z:\home\sdanthinne\Documents\307\gateTransistorModels\pc_test.asc
V1 P001 0 PULSE(0 5 1n 1n 1n 1m 2m)
V2 N001 0 5
XX1 P001 p[0] p[1] p[2] N001 s_pc
XX2 p[0] p[1] p[2] o[7] o[6] o[5] o[4] o[3] o[2] o[1] o[0] N001 s_rom_decoder
XX3 N001 o[7] o[6] o[5] o[4] o[3] o[2] o[1] o[0] ROM[8] ROM[7] ROM[6] ROM[5] ROM[4] ROM[3] ROM[2] ROM[1] ROM[0] instructionmemoryfinal8bit

* block symbol definitions
.subckt s_pc clk P[0] P[1] P[2] Vdd
XX5 Vdd P[1] D[0] N002 s_and
XX6 Vdd P[0] N003 N004 s_and
XX7 Vdd D[1] N002 N004 s_or
XX4 Vdd D[2] N005 P001 s_or
XX11 Vdd P001 N007 N008 s_or
XX12 Vdd P[1] N006 N005 s_and
XX13 Vdd P[0] N001 N006 s_and
XX14 Vdd P[2] N003 N007 s_and
XX15 Vdd P[2] D[0] N008 s_and
XX1 clk Vdd D[2] P[2] NC_01 s_d_flip_flop
XX2 clk Vdd D[1] P[1] NC_02 s_d_flip_flop
XX3 clk Vdd D[0] P[0] NC_03 s_d_flip_flop
XX16 N001 P[2] Vdd s_inv_slow
XX17 N003 P[1] Vdd s_inv_slow
XX18 D[0] P[0] Vdd s_inv_slow
.ic V(N[0])=0 V(N[1])=0 V(N[2])=0
.ends s_pc

.subckt s_rom_decoder PC_IN[0] PC_IN[1] PC_IN[2] rom_out[7] rom_out[6] rom_out[5] rom_out[4] rom_out[3] rom_out[2] rom_out[1] rom_out[0] Vdd
XX1 PC_IN[0] PC_IN[0]bar Vdd s_inv
XX2 PC_IN[1] PC_IN[1]bar Vdd s_inv
XX3 PC_IN[2] PC_IN[2]bar Vdd s_inv
XX4 Vdd rom_out[7] PC_IN[0] PC_IN[2] PC_IN[1] s_3_and
XX5 Vdd rom_out[6] PC_IN[0]bar PC_IN[2] PC_IN[1] s_3_and
XX6 Vdd rom_out[5] PC_IN[0] PC_IN[2] PC_IN[1]bar s_3_and
XX7 Vdd rom_out[4] PC_IN[0]bar PC_IN[2] PC_IN[1]bar s_3_and
XX8 Vdd rom_out[3] PC_IN[0] PC_IN[2]bar PC_IN[1] s_3_and
XX9 Vdd rom_out[2] PC_IN[0]bar PC_IN[2]bar PC_IN[1] s_3_and
XX10 Vdd rom_out[1] PC_IN[0] PC_IN[2]bar PC_IN[1]bar s_3_and
XX11 Vdd rom_out[0] PC_IN[0]bar PC_IN[2]bar PC_IN[1]bar s_3_and
.ends s_rom_decoder

.subckt instructionmemoryfinal8bit VDD WL[7] WL[6] WL[5] WL[4] WL[3] WL[2] WL[1] WL[0] BL[8] BL[7] BL[6] BL[5] BL[4] BL[3] BL[2] BL[1] BL[0]
R3 VDD BL[8] 40K
R4 VDD BL[7] 40K
R5 VDD BL[6] 40K
R6 VDD BL[5] 40K
R7 VDD BL[4] 40K
R8 VDD BL[3] 40K
R9 VDD BL[2] 40K
R10 VDD BL[1] 40K
R11 VDD BL[0] 40K
M81 BL[6] WL[0] 0 0 ROMN W=10u L=0.5u
M86 BL[1] WL[0] 0 0 ROMN W=10u L=0.5u
M1 BL[7] WL[3] 0 0 ROMN W=10u L=0.5u
M7 BL[7] WL[7] 0 0 ROMN W=10u L=0.5u
M10 BL[8] WL[4] 0 0 ROMN W=10u L=0.5u
M5 BL[6] WL[1] 0 0 ROMN W=10u L=0.5u
M6 BL[0] WL[0] 0 0 ROMN W=10u L=0.5u
M11 BL[1] WL[1] 0 0 ROMN W=10u L=0.5u
M18 BL[7] WL[0] 0 0 ROMN W=10u L=0.5u
M19 BL[5] WL[2] 0 0 ROMN W=10u L=0.5u
M20 BL[4] WL[2] 0 0 ROMN W=10u L=0.5u
M21 BL[3] WL[2] 0 0 ROMN W=10u L=0.5u
M2 BL[8] WL[7] 0 0 ROMN W=10u L=0.5u
M12 BL[6] WL[7] 0 0 ROMN W=10u L=0.5u
M3 BL[7] WL[6] 0 0 ROMN W=10u L=0.5u
M4 BL[8] WL[6] 0 0 ROMN W=10u L=0.5u
M13 BL[6] WL[6] 0 0 ROMN W=10u L=0.5u
M14 BL[7] WL[5] 0 0 ROMN W=10u L=0.5u
M15 BL[8] WL[5] 0 0 ROMN W=10u L=0.5u
M16 BL[6] WL[5] 0 0 ROMN W=10u L=0.5u
M17 BL[0] WL[2] 0 0 ROMN W=10u L=0.5u
M22 BL[4] WL[3] 0 0 ROMN W=10u L=0.5u
M23 BL[3] WL[3] 0 0 ROMN W=10u L=0.5u
.MODEL ROMN NMOS  (LEVEL=7 TOX=8e-9 U0 = 1300
+CGSO=3.4E-10 CGDO=3.4E-10 CJ=6.8e-4  CJSW=1.26e-10
+MJ=0.5 MJSW=0.5 CGBO=5.75E-10 RSH=33.8)
.MODEL ROMP PMOS  (LEVEL=7 TOX=8e-9  CGDO=5.3752E-11
+U0= 440    CGSO=5.3752E-11  CGBO=3.3650E-10 CJ=4.8447E-04
+MJ=0.5027 CJSW=1.6457E-10  MJSW=0.217168 RSH=29.8)
.ic V(BL8)=5 V(BL7)=0 V(BL6)=0 V(BL5)=5 V(BL4)=5 V(BL3)=5 V(BL2)=5 V(BL1)=0 V(BL0)=0
.ends instructionmemoryfinal8bit

.subckt s_and Vdd A B Vout
M1 N001 B N002 N002 CMOSN_0.5
M2 N002 A 0 0 CMOSN_0.5
M3 N001 B Vdd Vdd CMOSP_0.5
M4 N001 A Vdd Vdd CMOSP_0.5
XX1 N001 Vout Vdd s_inv
.ends s_and

.subckt s_or Vdd Vout A B
M1 P001 A Vdd Vdd CMOSP_0.5
M2 N001 B P001 P001 CMOSP_0.5
M3 N001 A 0 0 CMOSN_0.5
M4 N001 B 0 0 CMOSN_0.5
XX1 N001 Vout Vdd s_inv
.lib DetailedModel.mod
.ends s_or

.subckt s_d_flip_flop clk Vdd D Q Qbar
XX1 N001 N009 Vdd s_inv
XX2 Vdd N002 N006 N003 s_nand
XX3 Vdd N006 N008 N007 s_nand
XX4 Vdd N003 N005 N004 s_nand
XX5 Vdd N004 N007 N005 s_nand
XX8 N010 clk Vdd s_inv_slow
XX6 Vdd N001 clk N002 s_and
XX7 Vdd clk N009 N008 s_and
XX10 Vdd N004 P001 s_buf_slow
XX11 Vdd N005 P002 s_buf_slow
XX14 Vdd D N001 s_buf_slow
XX9 Vdd N010 N006 s_buf_slow
XX12 Q P001 Vdd s_current_boost
XX13 Qbar P002 Vdd s_current_boost
.ends s_d_flip_flop

.subckt s_inv_slow Vout Vin Vdd
M1 Vout Vin Vdd Vdd CMOSP_0.5 L=30u
M2 Vout Vin 0 0 CMOSN_0.5 L=30u
.ends s_inv_slow

.subckt s_inv vin vout vdd
M1 vout vin vdd vdd CMOSP_0.5
M2 vout vin 0 0 CMOSN_0.5
.ends s_inv

.subckt s_3_and Vdd Vout A B C
XX1 Vdd A B P001 s_and
XX2 Vdd P001 C Vout s_and
.ends s_3_and

.subckt s_nand Vdd A B Vout
M1 Vout B N001 N001 CMOSN_0.5
M2 N001 A 0 0 CMOSN_0.5
M3 Vout B Vdd Vdd CMOSP_0.5
M4 Vout A Vdd Vdd CMOSP_0.5
.lib DetailedModel.mod
.ends s_nand

.subckt s_buf_slow Vdd Vin Vout
XX1 N001 Vin Vdd s_inv_slow
XX2 Vout N001 Vdd s_inv_slow
.ends s_buf_slow

.subckt s_current_boost Vout Vin Vdd
XX1 N003 N002 Vdd s_inv
XX2 N003 N002 Vdd s_inv
XX3 N003 N002 Vdd s_inv
XX4 N002 N001 Vdd s_inv
XX5 N002 N001 Vdd s_inv
XX6 N002 N001 Vdd s_inv
XX7 N002 N001 Vdd s_inv
XX8 N002 N001 Vdd s_inv
XX9 N002 N001 Vdd s_inv
XX10 N002 N001 Vdd s_inv
XX11 N002 N001 Vdd s_inv
XX12 N002 N001 Vdd s_inv
XX13 Vin N003 Vdd s_inv
XX14 N001 Vout Vdd s_inv
XX15 N001 Vout Vdd s_inv
XX16 N001 Vout Vdd s_inv
XX17 N001 Vout Vdd s_inv
XX18 N001 Vout Vdd s_inv
XX19 N001 Vout Vdd s_inv
XX20 N001 Vout Vdd s_inv
XX21 N001 Vout Vdd s_inv
XX22 N001 Vout Vdd s_inv
XX23 N001 Vout Vdd s_inv
XX24 N001 Vout Vdd s_inv
XX25 N001 Vout Vdd s_inv
XX26 N001 Vout Vdd s_inv
XX27 N001 Vout Vdd s_inv
XX28 N001 Vout Vdd s_inv
XX29 N001 Vout Vdd s_inv
XX30 N001 Vout Vdd s_inv
XX31 N001 Vout Vdd s_inv
XX32 N001 Vout Vdd s_inv
XX33 N001 Vout Vdd s_inv
XX34 N001 Vout Vdd s_inv
XX35 N001 Vout Vdd s_inv
XX36 N001 Vout Vdd s_inv
XX37 N001 Vout Vdd s_inv
XX38 N001 Vout Vdd s_inv
XX39 N001 Vout Vdd s_inv
XX40 N001 Vout Vdd s_inv
.ends s_current_boost

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\sdanthinne\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20m
.lib Z:\home\sdanthinne\Documents\307\gateTransistorModels\DetailedModel.mod
.backanno
.end
